US07220752B2
3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid (E1)
Five drops of SOCl2 was added to a solution of 3,5-dibromo-4-[4-hydroxy-5-isopropyl-2 -(3-methylbenzoyl)phenoxy]phenylacetic acid (0.30 g, 0.52 mmol), in 20 mL MeOH. The mixture was stirred at room temperature for 12 h and concentrated leaving the title compound (0.18 g, 60%). 1H NMR (CDCl3): δ 7.9–7.7 (m, 2H), 7.5–7.1 (m, 4H), 6.9 (s, 1H), 6.2 (s, 1H), 4.7 (s, 3H), 4.5 (s, 2H), 3.1 (m, 1H), 2.4 (s, 3H), 1.1 (d, 6H).

reactant | 3,5-dibromo-4-[4-hydroxy-5-isopropyl-2 -(3-methylbenzoyl)phenoxy]phenylacetic acid | 0.52 mmol, 0.30 g | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)O)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C25H22Br2O5
catalyst | SOCl2 | Five drops | O=S(Cl)Cl | Cl2OS
solvent | MeOH | 20 mL | CO | CH4O
product | 3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid | 0.18 g, 60% | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)OCCC(=C)C)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C30H30Br2O5
